US07375104B2
a) 1-(3-amino-3-methylbutyl)-3,4-dihydroquinolin-2-one
Prepared analogously to the method described for Example 6a) from 15.7 g (107 mmol) of 3,4-dihydroquinolin-2-one and 24.9 g (119 mmol) of (3-chloro-1,1-dimethylpropyl)-(1-phenylmethylidene)amine. Unlike in the method mentioned above, the product is precipitated not as the maleate but as the hydrochloride. Yield: 6.9 g (24%, hydrochloride); melting range: 200° C.-203° C.

reactant | 3,4-dihydroquinolin-2-one | 107 mmol, 15.7 g | N1C(CCC2=CC=CC=C12)=O | C9H9NO
reactant | (3-chloro-1,1-dimethylpropyl)-(1-phenylmethylidene)amine | 119 mmol, 24.9 g | ClCCC(C)(C)N=CC1=CC=CC=C1 | C12H16ClN
product | 1-(3-amino-3-methylbutyl)-3,4-dihydroquinolin-2-one | NC(CCN1C(CCC2=CC=CC=C12)=O)(C)C | C14H20N2O
